data/pmechdb/original/mc_train_fold0/raw/train.txt
C1[CH2:20][S+:21]1CCO.[OH2:10].[OH3+].[Cl-]>>[CH2:20](C[S:21]CCO)[OH2+:10].[OH3+].[Cl-] 10=20;20,21=21
[H:20][O+:21](CC1CC2(C(N1CC)NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)CO)I7(C8=C(C=CC=C8)C(=O)O7)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)C[O:21]I7(C8=C(C=CC=C8)C(=O)O7)(OC(=O)C)OC(=O)C)CO 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)C(F)(F)F)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.[CH:22]1=[C:21](OC=C1C(F)(F)F)S(=O)(=O)O 10=20;20,21=21,22
CC[CH:20]([O-:10])[O:21]C(C)[O-]>>CC([O-:21])[O-].CC[CH:20]=[O:10] 10=20;20,21=21
CC(=O)OC(CC(CCO[Si](C)(C)C(C)(C)C)[O-:10])C[C:20](=[O:21])OC.[Li+]>>CC(=O)OC1CC([O:10][C:20](C1)([O-:21])OC)CCO[Si](C)(C)C(C)(C)C.[Li+] 10=20;20,21=21
CN(C)[C:20](O)([O-:10])[O:21]C>>CN(C)[C:20](=[O:10])O.C[O-:21] 10=20;20,21=21
COCC1C(C(C(C(O1)S(=[O:10])C2=CC=CC=C2)OC)OC)OC.CS(=O)(=O)O[S:20](=O)(=[O:21])C.CC1=C(CCC(C1)(C)CO)O[Si](C(C)C)(C(C)C)C(C)C.CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C>>COCC1C(C(C(C(O1)S(=[O+:10][S:20](=O)(C)([O-:21])OS(=O)(=O)C)C2=CC=CC=C2)OC)OC)OC.CC1=C(CCC(C1)(C)CO)O[Si](C(C)C)(C(C)C)C(C)C.CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C 10=20;20,21=21
[H:20][CH:21]=[C:22](C)[Br:23].[NH2-:10]>>[H:20][NH2:10].C[C:22]#[CH:21].[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C1CCOC(C1)[OH:10]>>[H:20][OH+:10]C1CCCCO1.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCCCCCCCC=CCCCCCCC[C:20](=[OH+:21])O.C1=CC=C(C=C1)C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>CCCCCCCCC=CCCCCCCC[C:20](O)([OH:21])[OH+:10]CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
CC[OH:10].C[CH:20]=[NH+:21]C>>CC[OH+:10][CH:20](C)[NH:21]C 10=20;20,21=21
[H:20][O:21]C(=O)C.[N+](=O)([OH:10])[O-].C1=CC2=C(C=C(N=C2C=C1)O)O>>[H:20][OH+:10][N+](=O)[O-].CC(=O)[O-:21].C1=CC2=C(C=C(N=C2C=C1)O)O 10=20;20,21=21
CC[O-:10].C1=C[C:20](=[N:21]C=C1)Cl>>CC[O:10][C:20]1(C=CC=C[N-:21]1)Cl 10=20;20,21=21
C[Si-:10](C)(C)([O:11]CC=CC[O-])F>>C(C=CC[O-:11])[O-].C[Si:10](C)(C)F 10,11=11
CCCCCCC#[C-:10].C1CC[C:20](=[O:21])CC1.CC(C)(C)[OH+][K]>>CCCCCCC#[C:10][C:20]1(CCCCC1)[O-:21].CC(C)(C)[OH+][K] 10=20;20,21=21
CC1(CC[C:20](=[O+:21]CCO)CC1)O.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1>>CC1(CC[C:20](CC1)([OH2+:10])[O:21]CCO)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1 10=20;20,21=21
C[Si](C)(C)C=[C:11]=[CH2:10].C[Si](C)(C)O[S:20](=[O:21])(=O)Cl>>C[Si](C)(C)C=[C+:11][CH2:10][S:20](=O)([O-:21])(O[Si](C)(C)C)Cl 10,11=10,20;20,21=21
C[CH:20]=[O:21].C[C:10]1=[C:11](CCC1=O)[O-:12]>>C[CH:20]([C:10]1(C(=O)CC[C:11]1=[O:12])C)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(CCC(=O)C)(C1=[N+](C(=C(S1)CCO)C)CC2=CC=CC=C2)C(C)C.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(SC(=[N+]1CC2=CC=CC=C2)C(CCC(=O)C)(C(C)C)[O-:21])CCO.[Cl-] 10=20;20,21=21
CC[NH:10]C(C)C.CC(C)CC[N+:21]1(C[CH2:20]1)CCCl.[Cl-]>>CC[NH+:10]([CH2:20]C[N:21](CCC(C)C)CCCl)C(C)C.[Cl-] 10=20;20,21=21
COC1=C(C(=CC=C1)OS(=O)(=O)C(F)(F)F)[Si:20](C)(C)C.[F-:10].CCOC(=O)CBr.CC1=CC=C(C=C1)S(=O)CC=C>>COC1=C(C(=CC=C1)OS(=O)(=O)C(F)(F)F)[Si-:20](C)(C)(C)[F:10].CCOC(=O)CBr.CC1=CC=C(C=C1)S(=O)CC=C 10=20,
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)Br.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[Br:20])Br.[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][O:21]C(=O)C1=CC=CC(=C1)Cl.CC1C([O:10]1)(C2=CC=CC=C2)O[Si](C)(C)C>>[H:20][O+:10]1C(C1(C2=CC=CC=C2)O[Si](C)(C)C)C.C1=CC(=CC(=C1)C(=O)[O-:21])Cl 10=20;20,21=21
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCN(C2CC4=C3C(=C(C=C4)OC)O)CCCCCC)OC.CCCCCC[N:10]1CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CCCCCC.CCCCCCN1CCC23[CH:21]=[C:22](C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)[OH:23].CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C[C+:20]=O.CO[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1>>C[C:20](=O)[CH:10]1C2=C(C=CC=C2)C=C[C+:11]1OC 10,11=10,20
C[C:20](=[Cl+:21])C.[Cl-:10]>>C[C:20](C)([Cl:10])[Cl:21] 10=20;20,21=21
[H:20][O+:21](CCC(C)OS(=O)(=O)C(F)(F)F)S(=O)(C(F)(F)F)([O-])OS(=O)(=O)C(F)(F)F.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC(CC[O:21]S(=O)(C(F)(F)F)([O-])OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F 10=20;20,21=21
[H:20][N:21]=NC1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3C6CCCCC6)O.[OH-:10].[K+]>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4C6CCCCC6)C(O2)C(CC5)N=[N-:21])O)C=C1.[K+] 10=20;20,21=21
C1CC[C:20](=[OH+:21])CC1.C1=CC(=C(C=C1)O)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CC[C:20](CC1)([OH:21])[OH+:10]C2=C(C=CC=C2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[CH:20]=[O:21].C[N+](C)(C)C[CH:10]=[CH:11][O-:12]>>C[CH:20]([CH:10](C[N+](C)(C)C)[CH:11]=[O:12])[O-:21] 10,11=10,20;20,21=21;12=11
C1CO[C:20](OC1)([OH2+:21])[OH:10]>>C1CO[C:20](=[OH+:10])OC1.[OH2:21] 10=20;20,21=21
C[S:10](C)([O:11]C(=O)C(=O)Cl)Cl>>C[S+:10](C)Cl.C(=O)(C(=O)Cl)[O-:11] 10,11=11
CN(C)[C:11]1=[CH:10]C=CC=C1.[Br:20][Br:21]>>CN(C)[C+:11]1C=CC=C[CH:10]1[Br:20].[Br-:21] 10,11=10,20;20,21=21
